US05939452
A. 2-Benzylidene-6-methoxy-3,4-dihydro-2H-naphthalen-1-one
To a stirred solution of 6-methoxy-1-tetralone (227 mmole, 40 gm) and benzaldehyde (272 mmole, 27.5 mL) in 450 mL of methanol was added pyrrolidine (272 mmole, 23.6 mL). The mixture was stirred at room temperature for about 4 days until TLC indicated that no starting tetralone was present. The mixture was concentrated in vacuo, then dissolved in EtOAc, washed with four portions of 10% HCl, two portions of saturated NaHCO3 solution, and one portion of brine. The solvent was removed in vacuo and the crude oil was triturated with diethyl ether to afford 38 g of the title compound of this Preparation 1A, mp 100-102° C. Analysis calculated for C18H16O2 : 264.1146. Found: 264.1149.

reactant | 6-methoxy-1-tetralone | 227 mmole, 40 gm | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | benzaldehyde | 272 mmole, 27.5 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyrrolidine | 272 mmole, 23.6 mL | N1CCCC1 | C4H9N
reactant | tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
solvent | methanol | 450 mL | CO | CH4O
product | 2-Benzylidene-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 38 g | C(C1=CC=CC=C1)=C1C(C2=CC=C(C=C2CC1)OC)=O | C18H16O2
